US05994317
A dry vessel under an argon atmosphere was charged with 1.15 g (29 mmol, 2.2 eq) 60% sodium hydroxide in mineral oil. A positive argon pressure was maintained throughout the experiment. The mineral oil was removed by trituration with 3×12 mL dry hexane, then 80 mL anhydrous tetrahydrofuran were added and stirring was initiated. A solution of N-methyldiethanolamine (1.55 g, 13 mmol) in 15 mL anhydrous tetrahydrofuran was added dropwise to the magnetically stirred suspension at room temperature, followed by reflux overnight. A solution of tetradecyl methane sulfonate (9.37 g, 32 mmol, 2.5 eq) in 23 mL anhydrous tetrahydrofuran was added and the reaction was maintained at reflux for three days. The reaction mixture was then cooled, and the slurry vacuum filtered through a 0.75 cm pad of Celite. The reaction vessel and filtration apparatus were rinsed with 100 mL tetrahydrofuran. The combined filtrates were evaporated to yield the crude product which was purified using silica gel (4.5×35 cm bed) in conjunction with a step gradient of ethyl ether:hexane (10:90 to 100:0). Pure fractions were determined by aliquot thin layer chromatography (2:1 ether:hexane). These fractions were pooled, evaporated and resuspended in neat ether and dried with a small amount of magnesium sulfate. Filtration through a 0.2 μm PTFE filter, then rotary evaporation followed by high vacuum treatment yielded pure [bis-(2-tetradecyloxyethyl)-methyl amine] (DEMOA) (2.30 g, 35%).

reactant | sodium hydroxide | 29 mmol, 1.15 g, 2.2 eq | [OH-].[Na+]
reactant | N-methyldiethanolamine | 13 mmol, 1.55 g | CN(CCO)CCO | C5H13NO2
reactant | tetradecyl methane sulfonate | 32 mmol, 9.37 g, 2.5 eq | CS(=O)(=O)OCCCCCCCCCCCCCC | C15H32O3S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
product | bis-(2-tetradecyloxyethyl)-methyl amine | C(CCCCCCCCCCCCC)OCCN(C)CCOCCCCCCCCCCCCCC | C33H69NO2
